US04845221
1-(1,2,3,4-tetrahydro-8-hydroxy-2-naphthalenyl)-4-[3-(trifluromethyl) phenyl]piperazine
1-(1,2,3,4-Tetrahydro-8-methoxy-2-naphthalenyl)-4-[3-(trifluromethyl)phenyl]piperazine hydrochloride (2.7 g, 6.0 mmole) was dissolved in 125 ml of methylene chloride and cooled to -78° C. in a dry ice/acetone bath. To the cold solution was added a mixture of 18.9 ml of 1 M boron tribromide and 25 ml of methylene chloride. The reaction was allowed to come to room temperature and stirred for three days. The reaction was quenched with methanol and concentrated in vacuo. The residue was column chromatographed on 100 g of silica gel with 5% methanol/chloroform as eluent and the crude title compound thus obtained was crystallized first from isopropanol with addition of 4 N isopropanolic HCl and then from acetone to yield 1.2 g of the title compound as the monohydrochloride, m.p. 207°-209° C.

reactant | 1-(1,2,3,4-Tetrahydro-8-methoxy-2-naphthalenyl)-4-[3-(trifluromethyl)phenyl]piperazine hydrochloride | 6.0 mmole, 2.7 g | Cl.COC=1C=CC=C2CCC(CC12)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F
reactant | boron tribromide | 1 M, 18.9 ml | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 125 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-(1,2,3,4-tetrahydro-8-hydroxy-2-naphthalenyl)-4-[3-(trifluromethyl) phenyl]piperazine | 1.2 g | OC=1C=CC=C2CCC(CC12)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C21H23F3N2O
